US08334236B2
(1) Production of ethyl 2-amino-6-(trifluoromethyl)nicotinate
19.5 g (0.12 mol) of ethyl 3-amino-3-iminopropanoate (described in Chemical and Pharmaceutical Bulletin, vol. 43, No. 5, p. 793 (1995)) was added to 100 mL of acetonitrile, and 18.6 g (0.12 mol) of 1,8-diazabicyclo[5.4.0]-7-undecene was added thereto at room temperature. The resulting mixture was stirred for 5 minutes. 20.6 g (0.12 mol) of 4-ethoxy-1,1,1-trifluoro-3-buten-2-one was added to the above mixture, and 18.6 g (0.12 mol) of 1,8-diazabicyclo[5.4.0]-7-undecene was added thereto. The resulting mixture was stirred for 3 hours at 80° C. The solvent was distilled off under reduced pressure from the reaction mixture, and the residue was concentrated to half the original volume. Ice water was added thereto. Crystals precipitated therefrom were separated by filtration, and were dissolved in ethyl acetate. The filtrate was extracted with ethyl acetate. The solution having the crystals dissolved therein and the organic phase extracted were combined, and the resultant was washed with brine, and then was dried and concentrated. The residue was purified by column chromatography (ethyl acetate:n-hexane=1:9 to 1:4), and thus 17.8 g of the title compound was obtained as colorless crystals (yield: 62%).

reactant | ethyl 3-amino-3-iminopropanoate | 0.12 mol, 19.5 g | NC(CC(=O)OCC)=N | C5H10N2O2
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.12 mol, 18.6 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 4-ethoxy-1,1,1-trifluoro-3-buten-2-one | 0.12 mol, 20.6 g | C(C)OC=CC(C(F)(F)F)=O | C6H7F3O2
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 0.12 mol, 18.6 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | ethyl 2-amino-6-(trifluoromethyl)nicotinate | 17.8 g | NC1=C(C(=O)OCC)C=CC(=N1)C(F)(F)F | C9H9F3N2O2
